US08258306B2
To a solution of (R)-tert-butyl 4-benzyl-2-methylpiperazine-1-carboxylate (10 g, 34.5 mmol) in methanol (100 mL) was added Pd/C (1.0 g) and the reaction mixture was subjected to hydrogenolysis under balloon pressure of hydrogen, at room temperature for 8 h. The reaction mixture was filtered through celite bed and the bed was washed with methanol. The filtrate was concentrated under reduced pressure to afford the crude product which was purified by silica gel (100-200 mesh) column chromatography eluting with 5% methanol in chloroform to afford 4.8 g of (R)-tert-butyl 2-methylpiperazine-1-carboxylate.

reactant | (R)-tert-butyl 4-benzyl-2-methylpiperazine-1-carboxylate | 34.5 mmol, 10 g | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(=O)OC(C)(C)C)C | C17H26N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 100 mL | CO | CH4O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | (R)-tert-butyl 2-methylpiperazine-1-carboxylate | 4.8 g | C[C@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
